US07291635B2
A solution of the title B compound in Example 36, 2-(2,4-dimethoxybenzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (115 mg, 4.02 mmol) and 3-methoxycarbonyl phenylboronic acid (145 mg, 8.04 mmol) in 1,4-dioxane (5 mL) is treated with copper(II) acetate (110 mg, 6.03 mmol) and CS2CO3 (262 mg, 8.04 mmol). The mixture is stirred at RT for 16 h and the solvent is evaporated. The residue is partitioned between EtOAc and 1N aqueous HCl. The organic layer is dried over anhydrous Na2SO4 and concentrated. The residue is flash chromatographed on silica gel using 30% EtOAc in hexanes as the eluent to give 3-[5-(2,4-dimethoxybenzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]benzoic acid methyl ester as a clear oil: [M+NH4]+=438.

reactant | 2-(2,4-dimethoxybenzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 4.02 mmol, 115 mg | COC1=C(CN2S(NCC2=O)(=O)=O)C=CC(=C1)OC | C11H14N2O5S
reactant | 3-methoxycarbonyl phenylboronic acid | 8.04 mmol, 145 mg | COC(=O)C=1C=C(C=CC1)B(O)O | C8H9BO4
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | copper(II) acetate | 6.03 mmol, 110 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 3-[5-(2,4-dimethoxybenzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]benzoic acid methyl ester | COC(C1=CC(=CC=C1)N1S(N(C(C1)=O)CC1=C(C=C(C=C1)OC)OC)(=O)=O)=O | C19H20N2O7S
